data/rdb19/train.csv
rxn,smiles,ea
2009,[C:11]([C:12]([C:13]([C:14]([H:24])([H:25])[H:26])([C:15]([H:16])[H:17])[H:23])([H:21])[H:22])([H:18])([H:19])[H:20].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[N:1]([C:2]([O:3][C:15]([C:13]([C:12]([C:11]([H:18])([H:19])[H:20])([H:21])[H:22])([C:14]([H:24])([H:25])[H:26])[H:23])([H:16])[H:17])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7],27.580266784993
4068,[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])[C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])([H:12])[H:13])([H:9])([H:10])[H:11].[C:20]([C:21](=[C:22]([H:29])[H:30])[C:23](=[O:24])[O:25][H:31])([H:26])([H:27])[H:28]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])[O:24][C:23]([C:21]([C:20]([H:26])([H:27])[H:28])=[C:22]([H:29])[H:30])[O:25][H:31])([H:12])[H:13])([H:9])([H:10])[H:11],28.259255504002795
5275,[C:1]([C:2]([C:3]([H:4])([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[O:27][C:26]([N:25]([C:23]([C:22]([C:21]([H:28])([H:29])[H:30])([H:31])[H:32])([C:24]([H:34])([H:35])[H:36])[H:33])[H:37])[H:38])([H:14])[H:15])([H:11])([H:12])[H:13]>>[C:1]([C:2]([C:3]([H:4])([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[O:27][C:26]([H:15])([N:25]([C:23]([C:22]([C:21]([H:28])([H:29])[H:30])([H:31])[H:32])([C:24]([H:34])([H:35])[H:36])[H:33])[H:37])[H:38])[H:14])([H:11])([H:12])[H:13],26.10010555689223
2899,[C:16]([C:17]([O:18][C:19](=[O:20])[C:21]([H:22])[C:23]([C:24]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:25])([H:26])[H:27].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([H:11])([H:12])[C:21]([C:19]([O:18][C:17]([C:16]([H:25])([H:26])[H:27])([H:28])[H:29])=[O:20])([H:22])[C:23]([C:24]([H:32])([H:33])[H:34])([H:30])[H:31])([H:8])([H:9])[H:10].[O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13],55.1477382008452
5469,[C:19]([C:20]([C:21]([H:22])[H:23])([N:24]([C:25](=[O:26])[H:32])[H:31])[H:30])([H:27])([H:28])[H:29].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[C:4]([H:14])([H:15])([H:16])[C:21]([C:20]([C:19]([H:27])([H:28])[H:29])([N:24]([C:25](=[O:26])[H:32])[H:31])[H:30])([H:22])[H:23],53.199332214077
5356,[C:17]([C:18]([C:19]([H:20])[H:21])([O:22][C:23](=[O:24])[C:25]([H:30])([H:31])[H:32])[H:29])([H:26])([H:27])[H:28].[C:1](=[C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10]>>[C:1](=[C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])[H:10].[H:9][C:19]([C:18]([C:17]([H:26])([H:27])[H:28])([O:22][C:23](=[O:24])[C:25]([H:30])([H:31])[H:32])[H:29])([H:20])[H:21],25.282004269363824
3569,[C:17]([O:18][C:19](=[O:20])[C:21](=[C:22]([H:27])[H:28])[C:23]([H:29])([H:30])[H:31])([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])[H:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:17]([O:18][C:19](=[O:20])[C:21](=[C:22]([H:27])[H:28])[C:23]([H:29])([H:30])[H:31])([H:24])[H:26].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])([H:7])[H:25])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],21.608544941525903
4284,[C:16]([C:17]([C:18]([H:19])[O:20][C:21]([H:27])([H:28])[H:29])([H:25])[H:26])([H:22])([H:23])[H:24].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([O:4][H:26])([C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])[C:18]([C:17]([C:16]([H:22])([H:23])[H:24])[H:25])([H:19])[O:20][C:21]([H:27])([H:28])[H:29])([H:8])([H:9])[H:10],44.448231028567534
2019,[C:11]([C:12]([C:13]([H:14])[C:15]([C:16]([H:24])([H:25])[H:26])([H:22])[H:23])([H:20])[H:21])([H:17])([H:18])[H:19].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[N:1]([C:2]([O:3][C:13]([C:12]([C:11]([H:17])([H:18])[H:19])([H:20])[H:21])([H:14])[C:15]([C:16]([H:24])([H:25])[H:26])([H:22])[H:23])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7],25.35914225224405
1544,[C:10]([C:11]([C:12]([H:13])[H:14])([N:15]([C:16](=[O:17])[H:23])[H:22])[H:21])([H:18])([H:19])[H:20].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[H:9][C:12]([C:11]([C:10]([H:18])([H:19])[H:20])([N:15]([C:16](=[O:17])[H:23])[H:22])[H:21])([H:13])[H:14].[O:1]([C:2](=[O:3])[C:4](=[C:5][H:8])[H:7])[H:6],25.5738092418178
